US03939278
α-methyl-3-chloro-4-phenylbenzyl alcohol, 28.6 g, was dissolved in 36 ml of acetone. To the resulting solution was added dropwise, with cooling and vigorous agitation, a solution of 12 g of chromium trioxide in 42 ml of 35 percent aqueous sulfuric acid. A large volume of acetone then was added; the aqueous layer was separated and washed with acetone. The acetone layer and acetone extracts were combined and dried over anhydrous sodium sulfate. The acetone was evaporated and the residue was distilled in vacuo to give 26.3 g of 3'-chloro-4'-phenylacetophenone, bp 132°-141°C/0.09 mm. The following elemental analysis was obtained:

reactant | α-methyl-3-chloro-4-phenylbenzyl alcohol | CC(C1=CC(=C(C=C1)C1=CC=CC=C1)Cl)O | C14H13ClO
solvent | acetone | 36 ml | CC(=O)C | C3H6O
solvent | sulfuric acid | 42 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 12 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3'-chloro-4'-phenylacetophenone | 26.3 g | ClC=1C=C(C=CC1C1=CC=CC=C1)C(C)=O | C14H11ClO
